US08536168B2
6-[4-(4-Chloro-phthalazin-1-yl)-piperazin-1-yl]-nicotinonitrile (Compound 22)
To a 100-mL round-bottom flask is added 6-piperazin-1-yl-nicotinonitrile (9.60 g, 50 mmol), 1,4-dichlorophthalazine (11.2 g, 55.1 mmol, 1.1 eq), Et3N (3.5 mL, 250 mmol, 5 eq.), and NMP (100 mL). The mixture is heated to 80° C. for 2.5 h. Upon cooling to room temperature, the reaction is poured into H2O (500 mL) and the precipitate isolated by filtration, rinsing with additional H2O. Crude material is purified by recrystallization (CH2Cl2:heptanes) to afford 8.96 g title compound as a beige solid.

reactant | 6-piperazin-1-yl-nicotinonitrile | 50 mmol, 9.60 g | N1(CCNCC1)C1=NC=C(C#N)C=C1 | C10H12N4
reactant | 1,4-dichlorophthalazine | 55.1 mmol, 11.2 g, 1.1 eq | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
reactant | Et3N | 250 mmol, 3.5 mL, 5 eq. | CCN(CC)CC | C6H15N
reactant | NMP | 100 mL | CN1CCCC1=O | C5H9NO
solvent | H2O | 500 mL | O | H2O
product | 6-[4-(4-Chloro-phthalazin-1-yl)-piperazin-1-yl]-nicotinonitrile | 8.96 g | ClC1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(C#N)C=C1 | C18H15ClN6
